US07384963B2
Methyl 2′-methyl-5′-(5-methyl-1,3,4-oxadiazol-2-yl)-1,1′-biphenyl-4-carboxylate Methyl 2′-methyl-5′-(5-methyl-1,3,4-oxadiazol-2-yl)-1,1′-biphenyl-4-carboxylate was prepared from 2-(3-bromo-4-methylphenyl)-5-methyl-1,3,4-oxadiazole and [4-(methoxycarbonyl)phenyl]boronic acid using method D. NMR; δH CDCl3 8.12,(2H, d), 7.94, (1H, dd), 7.90,(1H, d), 7.43,(3H, m), 3.96,(3H, s), 2.61,(3H, s), 2.33,(3H, s). LCMS; retention time 3.37 min, MH+ 309.

reactant | 2-(3-bromo-4-methylphenyl)-5-methyl-1,3,4-oxadiazole | BrC=1C=C(C=CC1C)C=1OC(=NN1)C | C10H9BrN2O
reactant | [4-(methoxycarbonyl)phenyl]boronic acid | COC(=O)C1=CC=C(C=C1)B(O)O | C8H9BO4
product | Methyl 2′-methyl-5′-(5-methyl-1,3,4-oxadiazol-2-yl)-1,1′-biphenyl-4-carboxylate Methyl 2′-methyl-5′-(5-methyl-1,3,4-oxadiazol-2-yl)-1,1′-biphenyl-4-carboxylate | COC(=O)C1=CC=C(C=C1)C1=C(C=CC(=C1)C=1OC(=NN1)C)C.CC1=C(C=C(C=C1)C=1OC(=NN1)C)C1=CC=C(C=C1)C(=O)OC | 2C18H16N2O3
